US04336054
11.8 g (0.048 M) of N-(3-trimethylsilylprop-2-ynyl)benzenecarboximidate in 20 ml of tetrahydrofuran is added to lithium diisopropylamide, prepared from 4.9 g (6.78 ml, 0.048 M) of diisopropylamide in 60 ml of tetrahydrofuran and 23.6 ml of a 2.05 M solution of n-butyllithium at -70° C. after which 9.5 g (0.042 M) of N-(3-bromopropyl)benzylimine is added, and the mixture is stirred at -70° C. for 51/2 hours. To the reaction mixture is added 23.6 ml of a 2.05 M solution of n-butyllithium followed by the addition of 4.5 g (3.67 ml, 0.048 M) of methyl chloroformate. After 30 minutes at -78° C. the mixture is treated with brine, and the reaction product is isolated by ether extraction. The ether extract is evaporated and 300 ml of 3 N HCl is added to the resulting residue and the mixture is refluxed for 7 hours. On cooling the mixture is washed well with methylene chloride, made alkaline and washed again. The aqueous solution is acidified and concentrated to dryness. The residue is triturated with ethanol, filtered and the ethanol evaporated. The residue is dissolved in water, the pH adjusted to 6, and the solution is applied to a column of Amberlite 120 H+, eluting with 1 M NH4OH which affords, upon recrystallization from ethanol-water, α-ethynyl-α,δ-diaminovaleric acid, M.P. 168-169 (dec.).

reactant | N-(3-trimethylsilylprop-2-ynyl)benzenecarboximidate | 0.048 M, 11.8 g | C[Si](C#CCN=C([O-])C1=CC=CC=C1)(C)C
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamide | 0.048 M, 6.78 ml, 4.9 g | C(C)(C)[N-]C(C)C
reactant | n-butyllithium | C(CCC)[Li]
reactant | methyl chloroformate | 0.048 M, 3.67 ml, 4.5 g | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | ether | CCOCC | C4H10O
product | α-ethynyl-α,δ-diaminovaleric acid | C(#C)C(C(=O)O)(CCCN)N | C7H12N2O2
